US04459409
A solution of 2,3-quinolinedicarboxylic anhydride (0.037 mol) in tetrahydrofuran (THF, 250 ml) is stirred at 5° C. under a drying tube, and a solution of 2-amino-2,3-dimethylbutyramide (0.037 mol) in THF (50 ml) added thereto, in small increments, over a 15 minute period. The reaction mixture is allowed to warm slowly to room temperature for an extended period of time, i.e. about 17 hours. The solvent is evaporated in vacuo to afford a gummy residue, which is triturated with hot ethyl acetate (400 ml) and then filtered to afford the desired 2-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]-3-quinolinecarboxylic acid, mp 172.5°-173.5° C.

reactant | 2,3-quinolinedicarboxylic anhydride | 0.037 mol | N1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C11H5NO3
reactant | 2-amino-2,3-dimethylbutyramide | 0.037 mol | NC(C(=O)N)(C(C)C)C | C6H14N2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | 2-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]-3-quinolinecarboxylic acid | C(N)(=O)C(C(C)C)(C)NC(=O)C1=NC2=CC=CC=C2C=C1C(=O)O | C17H19N3O4
